US09108983B2
Step A: 6-Bromopyridin-3-yl tert-butyl carbonate
To a solution of 5 g of 6-bromopyridin-3-ol (28.7 mmol) and 7.53 g of di-tert-butyl dicarbonate (34.5 mmol) in 50 mL of tetrahydrofuran there is added 0.18 g of 4-dimethylaminopyridine (1.4 mmol). The mixture is stirred at ambient temperature for 6 hours and then concentrated. The residue obtained is dissolved in a mixture of ethyl ether and water. After separation of the phases, the separated-off organic phase is dried over MgSO4 and concentrated to dryness. The title product is obtained in the form of a solid which is used in the next Step without being otherwise purified.

reactant | 6-bromopyridin-3-ol | 28.7 mmol, 5 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | di-tert-butyl dicarbonate | 34.5 mmol, 7.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.4 mmol, 0.18 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 6-Bromopyridin-3-yl tert-butyl carbonate | C(OC=1C=NC(=CC1)Br)(OC(C)(C)C)=O | C10H12BrNO3
